US05432177
Step 3: 3-(4-[4-Ethoxyphenyl]piperazin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine
A mixture of 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine[prepared by the method of M. M. Robison and B. L. Robison, J. Am. Chem. Soc., 1955, 77, 457](0.40 g, 2.28 mmol) and 1-(4-ethoxyphenyl)piperazine (0.495 g, 2.40 mmol) in toluene (10ml) was heated at reflux under nitrogen for 7 h. The mixture was allowed to cool and the crystallised product collected. Recrystallisation from methanol afforded the title compound (0.513 g, 67%), m.p. 179°-180° C.; (Found: C, 71.27; H, 7.19; N, 16.59. C20H24N4O requires C, 71.40; H, 7.19; N, 16.65%): δH (DMSO-d6) 1.27 (3H, t, J 7.0 Hz, ArOCH2CH3), 2.52 (4H, m, 2 piperazinyl CH2), 2.98 (4H, m, 2×piperazinyl CH2), 3.67 (2H, s CH 2 N), 3.92 (2H, q, J 7.0 Hz, ArOCH2CH3), 6.80 (4H, m, AvH), 7.04 (1H, dd, J 7.8, 4.6 Hz, 5-H), 7.37 (1H, d, J 2.1 Hz, 2-H), 8.04 (1H, dd, J 7.8, 1.3 Hz, 4-H), 8.19 (1H, dd, J 4.6, 1.3 Hz, 6-H), and 11.46 (1H, br s, NH); m/z (CI+, NH3) 337 (M+1)+.

reactant | 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
reactant | 1-(4-ethoxyphenyl)piperazine | 2.40 mmol, 0.495 g | C(C)OC1=CC=C(C=C1)N1CCNCC1 | C12H18N2O
solvent | toluene | 10ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-[4-Ethoxyphenyl]piperazin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | 0.513 g, 67% | C(C)OC1=CC=C(C=C1)N1CCN(CC1)CC1=CNC2=NC=CC=C21 | C20H24N4O
